### PR TITLE
Erdos Problem 44

### LINKED ISSUE #222: Erdős problem 44: extending Sidon sets
### What is the conjecture
    
https://www.erdosproblems.com/44

  Let $N\geq 1$ and $A\subset \{1,\ldots,N\}$ be a Sidon set. Is it true that, for any $\epsilon>0$, there exist $M=M(\epsilon)$ and $B\subset \{N+1,\ldots,M\}$ such that $A\cup B\subset \{1,\ldots,M\}$ is a Sidon set of size at least $(1-\epsilon)M^{1/2}$?

Status: open

### Prerequisites needed
None, Sidon sets are already in `ForMathlib`

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by saurabhraghuvanshii**
closes #222

### CODE REVIEW

**Comment by mo271** [comment]
Hi, thanks for the contribution!
I think it would be easier to review when this pull request is split into three, one for each problem. Also, as a first step, it might be a good idea to get the issue #27 done, because then we don't need to add new ad-hoc definition for the Sidon sets.

**Comment by mo271** [comment]
After #287 is merged, you rebase or merge and then use `IsSidon A` for `A : Set ℕ` and `IsSidon A.toSet` for `A: Finset ℕ`, no need to redefine it. (Same for #288 and #289).

File: FormalConjectures/ErdosProblems/44.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+import FormalConjectures.ForMathlib.Combinatorics.Basic
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]:
```suggestion
```
Is this import really needed?

File: FormalConjectures/ErdosProblems/44.lean [hunk 2]
```diff
@@ -0,0 +1,114 @@
...
+
+This problem asks whether any Sidon set can be extended to achieve a density
+arbitrarily close to the optimal density for Sidon sets.
+-/
+
+open Function Set
+
+/-- The maximum size of a Sidon set in `{1, ..., N}`. -/
+noncomputable def maxSidonSetSize (N : ℕ) : ℕ :=
+  sSup {A.card | (A : Finset ℕ) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet)}
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]:
```suggestion
  sSup {(A.card) | (A : Finset ℕ) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet)}
```
I think maybe you need this to not get errors?

File: FormalConjectures/ErdosProblems/44.lean [hunk 3]
```diff
@@ -0,0 +1,114 @@
...
+
+/-- The optimal density for Sidon sets is approximately `√N`. -/
+@[category API, AMS 5 11]
+theorem maxSidonSetSize_bound (N : ℕ) (hN : 1 ≤ N) :
+    maxSidonSetSize N ≤ N.sqrt + 1 := by
+  sorry
+
+/--
+A Sidon set can be extended to achieve density close to optimal.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]: I would reword this closer to how it is written on the website. In particular it should be phrased as a question rather than an assertion (especially since you are using the `answer(sorry)` formulation.

File: FormalConjectures/ErdosProblems/44.lean [hunk 4]
```diff
@@ -0,0 +1,114 @@
...
+-/
+@[category research open, AMS 5 11]
+theorem erdos_44 : (∀ (N : ℕ) (A : Finset ℕ) (_ : 1 ≤ N) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet),
+    ∀ ε > 0, ∃ (M : ℕ) (B : Finset ℕ),
+      N < M ∧
+      B ⊆ Finset.Icc (N + 1) M ∧
+      IsSidon (A ∪ B).toSet ∧
+      (1 - ε) * M.sqrt ≤ (A ∪ B).card) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]:
```suggestion
theorem erdos_44 :
    (∀ (N : ℕ) (A : Finset ℕ) (_ : 1 ≤ N) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet),
      ∀ ε > (0 : ℝ), ∃ᵉ (M > N) (B ⊆ Finset.Icc (N + 1) M),
        IsSidon (A ∪ B).toSet ∧
        (1 - ε) * (M : ℝ).sqrt ≤ (A ∪ B).card) ↔ answer(sorry) := by
  sorry
```
A few suggestions here:
1. reformatting to keep below 100 character limit (and please do this in the other statements as well)
2. making sure that `ε` gets `ℝ` as its inferred type (currently it has type `ℕ`). Similarly making sure `M.sqrt` is using the real square root, currently it was using the natural number square root which involves taking a floor.
3. Finally using `∃ᵉ` the statement can be made a bit more compact.

**Review by callesonne — COMMENTED** [review]
Thanks a lot for this contribution! Here are some initial comments :)

File: FormalConjectures/ErdosProblems/44.lean (hunk 1 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/44.lean]: I think yes, because many places we used `IsSidon A.toSet`, Without it, Lean would not be able to find the IsSidon definition.

Comment (callesonne) [reply FormalConjectures/ErdosProblems/44.lean]: Have you tried deleting it to see if it compiles? Because `FormalConjectures.Util.ProblemImports` should include this import already, and if not I should fix this.

Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/44.lean]: sorry for late, I checked  builds it is working without  `import FormalConjectures.ForMathlib.Combinatorics.Basic` so I removed it, thanks and only error I am seeing that copyright header..

File: FormalConjectures/ErdosProblems/44.lean [hunk 5]
```diff
@@ -0,0 +1,107 @@
...
+# Erdős Problem 44: Extending Sidon Sets
+
+*Reference:* [erdosproblems.com/44](https://www.erdosproblems.com/44)
+
+Let N ≥ 1 and `A ⊆ {1,…,N}` be a Sidon set. Is it true that, for any ε > 0,
+there exist M = M(ε) and `B ⊆ {N+1,…,M}` such that `A ∪ B ⊆ {1,…,M}` is a Sidon set
+of size at least `(1−ε)M^{1/2}`?
+
+This problem asks whether any Sidon set can be extended to achieve a density
+arbitrarily close to the optimal density for Sidon sets.
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]: We usually put this description as the docstring to the erdos problem, and not as the module docstring.

File: FormalConjectures/ErdosProblems/44.lean [hunk 6]
```diff
@@ -0,0 +1,107 @@
...
+-/
+
+open Function Set
+
+/-- The maximum size of a Sidon set in `{1, ..., N}`. -/
+noncomputable def maxSidonSetSize (N : ℕ) : ℕ :=
+  sSup {(A.card) | (A : Finset ℕ) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet)}
+
+/-- The optimal density for Sidon sets is approximately `√N`. -/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]:
```suggestion
/-- The maximum size of a Sidon set in `{1, ..., N}` is less than or equal to `√N + 1`. -/
```
I would reword it like this, since currently this statement says nothing about optimality.

File: FormalConjectures/ErdosProblems/44.lean [hunk 7]
```diff
@@ -0,0 +1,107 @@
...
+  sorry
+
+/--
+A Sidon set can be extended to achieve density close to optimal.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_44 : (∀ (N : ℕ) (A : Finset ℕ) (_ : 1 ≤ N) (_ : A ⊆ Finset.Icc 1 N)
+    (_ : IsSidon A.toSet), ∀ (ε : ℝ) (_ : ε > 0), ∃ᵉ (M : ℕ) (B : Finset ℕ),
+      N < M ∧ B ⊆ Finset.Icc (N + 1) M ∧ IsSidon (A ∪ B).toSet ∧
+      (1 - ε) * Real.sqrt M ≤ (A ∪ B).card) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]:
```suggestion
theorem erdos_44 : (∀ᵉ (N ≥ (1 : ℕ)) (A ⊆ Finset.Icc 1 N), IsSidon A.toSet →
    ∀ᵉ (ε > (0 : ℝ)), ∃ᵉ (M > N) (B ⊆ Finset.Icc (N + 1) M),
      IsSidon (A ∪ B).toSet ∧ (1 - ε) * Real.sqrt M ≤ (A ∪ B).card) ↔ answer(sorry) := by
```
Here is a more compact way of writing this, utilizing `∃ᵉ` and `∀ᵉ` more. I also find it cleaner to use implications instead of unnamed hypothesis. Could you try to mimic these for the theorems below as well?

**Review by callesonne — COMMENTED** [review]
Some more comments.

File: FormalConjectures/ErdosProblems/44.lean [hunk 8]
```diff
@@ -0,0 +1,100 @@
...
+
+/-- The maximum size of a Sidon set in `{1, ..., N}`. -/
+noncomputable def maxSidonSetSize (N : ℕ) : ℕ :=
+  sSup {(A.card) | (A : Finset ℕ) (_ : A ⊆ Finset.Icc 1 N) (_ : IsSidon A.toSet)}
+
+/-- The maximum size of a Sidon set in `{1, ..., N}` is less than or equal to `√N + 1`. -/
+@[category API, AMS 5 11]
+theorem maxSidonSetSize_bound (N : ℕ) (hN : 1 ≤ N) :
+    maxSidonSetSize N ≤ N.sqrt + 1 := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]: Do you know how hard / easy this statement is? I would not use the tag `category API` but maybe `category undergraduate`, `category graduate` or `category research solved` depending on its difficulty.

File: FormalConjectures/ErdosProblems/44.lean [hunk 9]
```diff
@@ -0,0 +1,100 @@
...
+
+/--
+A variant considering the extension to any larger range.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_44.variant : (∀ᵉ (N ≥ (1 : ℕ)) (A ⊆ Finset.Icc 1 N), IsSidon A.toSet →
+    ∀ᵉ (ε > (0 : ℝ)) (M ≥ N), ∃ᵉ (B ⊆ Finset.Icc (N + 1) M),
+      IsSidon (A ∪ B).toSet ∧ (1 - ε) * Real.sqrt M ≤ (A ∪ B).card) ↔ answer(sorry) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean]: Will this variant not be false? If you pick `A` a "small" Sidon set, `ε` very small, and `M = N + 1`, then I'm guessing that there is no way to extend `A` to have optimal density in `[1, ..., M]` right? If you agree with this reasoning then I think this should be `category undergraduate` instead.

File: FormalConjectures/ErdosProblems/44.lean [hunk 10]
```diff
@@ -0,0 +1,100 @@
...
+theorem sidon_set_lower_bound (N : ℕ) (hN : 1 ≤ N) :
+    ∃ᵉ (A ⊆ Finset.Icc 1 N), IsSidon A.toSet ∧ N.sqrt / 2 ≤ A.card := by
+  sorry
+
+/--
+The greedy construction gives a Sidon set of size approximately `√N`.
+-/
+@[category undergraduate, AMS 5 11]
+theorem greedy_sidon_construction (N : ℕ) (hN : 1 ≤ N) :
+    ∃ᵉ (A ⊆ Finset.Icc 1 N), IsSidon A.toSet ∧ A.card ≥ N.sqrt := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/44.lean:99]: So given the theorem above this means that the set must have size `√N` or `√N + 1`?

**Review by callesonne — APPROVED** [review]
LGTM after these comments :) Thanks!

File: FormalConjectures/ErdosProblems/44.lean (hunk 9 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/44.lean]: hmhm, sorry I didn't thought about it

File: FormalConjectures/ErdosProblems/44.lean (hunk 10 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/44.lean:99]: Every Sidon set has size at most √N + 1.

File: FormalConjectures/ErdosProblems/44.lean [hunk 11]
```diff
@@ -0,0 +1,100 @@
...
+  sorry
+
+/-! ## Related results and examples -/
+
+/--
+The set `{1, 2, 4, 8, 13}` is a Sidon set in `{1, ..., 13}`.
+-/
+@[category undergraduate, AMS 5 11]
+theorem example_sidon_set : IsSidon {1, 2, 4, 8, 13} := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/44.lean:84]:
```
intros a ha b hb c hc d hd h
  rcases ha with ha | ha | ha | ha | ha <;>
  rcases hb with hb | hb | hb | hb | hb <;>
  rcases hc with hc | hc | hc | hc | hc <;>
  rcases hd with hd | hd | hd | hd | hd <;>
  simp_all [ha, hc, hb, hd]
  ```
  would be a proof for this, but it is a little slow, so perhaps better not to include it.

**Review by mo271 — APPROVED** [review]

**Comment by mo271** [comment]
Thanks!

File: FormalConjectures/ErdosProblems/44.lean (hunk 10 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/44.lean:99]: @saurabhraghuvanshii do you have a source for this?

Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/44.lean:99]: no sir.
